US07858800B2
1) Production of phenyl azide
Concentrated hydrochloric acid (20 ml) was cooled at 0° C. and a solution of 2.0 ml of phenylhydrazine in 7.0 ml of diethyl ether was dropped thereinto. After stirring for 10 minutes, a solution of 1.70 g of sodium nitrite dissolved in 2.0 ml of water was dropped thereinto and the mixture was stirred for 1 hour together with raising the temperature up to room temperature. Water was added to the reaction solution, the mixture was extracted with ethyl acetate and the ethyl acetate layer washed with a saturated saline solution and dried over sodium sulfate. The solvent was evaporated in vacuo to give 961 mg of the title compound as a red oily crude product.

reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | phenylhydrazine | 2.0 ml | C1(=CC=CC=C1)NN | C6H8N2
reactant | sodium nitrite | 1.70 g | N(=O)[O-].[Na+]
solvent | diethyl ether | 7.0 ml | C(C)OCC | C4H10O
solvent | water | 2.0 ml | O | H2O
product | phenyl azide | 961 mg | C1(=CC=CC=C1)N=[N+]=[N-] | C6H5N3
